US05795897
A sodium methanol solution (prepared by adding sodium (20 mg, 0.9 mmol) to 1 ml of methanol) was added to a solution of 1-(5-oxohexyl)-3-methyl-7(methylpivaloyl)xanthine (270 mg, 0.7 mmol) in 4 ml of methanol and stirred for 15 min. The reaction mixture was poured into water (20 ml), then extracted with 25% ethanol/dichloromethane (4×50 ml). The organic extracts were combined, dried with sodium sulfate, and evaporated to give a yellow solid. The solid was washed with ether to remove impurities and give CT1505 (1-(5-oxohexyl)-3-methylxanthine) as a white solid (120 mg, 0.45 mmol, 65% yield).

reactant | sodium methanol | 0.9 mmol, 1 ml, 20 mg | CO.[Na]
reactant | 1-(5-oxohexyl)-3-methyl-7(methylpivaloyl)xanthine | 0.7 mmol, 270 mg | O=C(CCCCN1C(=O)N(C=2N=CN(C2C1=O)C(C(CC)(C)C)=O)C)C | C18H26N4O4
reactant | water | 20 ml | O | H2O
solvent | methanol | 4 ml | CO | CH4O
product | 1-(5-oxohexyl)-3-methylxanthine | O=C(CCCCN1C(=O)N(C=2N=CNC2C1=O)C)C | C12H16N4O3
